US09163003B2
2-{(R)-3-[4-(4-Methoxy-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one
To a solution of (R)-3-[4-(4-methoxy-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one (0.165 mmol, 50 mg), which was prepared in a similar manner as (R)-3-[4-(4-methoxy-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one from (S)-3-hydroxypyrrolidin-2-one and 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one (0.165 mmol, 33.2 mg) in THF (5 mL) was added 1 M solution of potassium hexamethyldisilylamide in THF (0.331 mmol, 0.331 mL) at −78° C. for 2 hours. The reaction was allowed to warm to 0° C. for 16 hours and evaporated under vacuum. The remaining residue was purified by flash column chromatography (silica) eluting over a gradient of 0-50% MeOH/ethyl acetate provided the title compound as an off-white solid (20 mg, 25.9% yield). HRMS calculated for C25H30N4O5 466.5417. found (ESI, [M+H]′) 467.2296. 1H NMR (400 MHz, MeOD) 8 ppm 1.69-1.91 (m, 4H) 2.10-2.33 (m, 2H) 2.49-2.59 (m, 1H) 2.59-2.67 (m, 2H) 2.76-2.89 (m, 1H) 2.91-3.01 (m, 1H) 3.11-3.22 (m, 1H) 3.32-3.44 (m, 2H) 3.46-3.58 (m, 2H) 3.59-3.71 (t, J=8.78 Hz, 1H) 3.88-3.96 (m, 2H) 4.04-4.14 (d, J=15.56 Hz, 2H) 4.36-4.42 (m, 2H) 4.44-4.51 (m, 2H) 6.97 (d, J=9.03 Hz, 2H) 7.92 (d, J=9.03 Hz, 2H), analytical RP-HPLC retention time=4.02 min.

reactant | (R)-3-[4-(4-methoxy-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one | 0.165 mmol, 50 mg | COC1=CC=C(C(=O)C2CCN(CC2)[C@H]2C(NCC2)=O)C=C1 | C17H22N2O3
reactant | (S)-3-hydroxypyrrolidin-2-one | O[C@@H]1C(NCC1)=O | C4H7NO2
reactant | 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one | 0.165 mmol, 33.2 mg | ClCC=1NC(C2=C(N1)CCOC2)=O | C8H9ClN2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.331 mmol, 0.331 mL | C1CCOC1 | C4H8O
product | 2-{(R)-3-[4-(4-Methoxy-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one | 20 mg, 25.9% yield | COC1=CC=C(C(=O)C2CCN(CC2)[C@H]2C(N(CC2)CC=2NC(C3=C(N2)CCOC3)=O)=O)C=C1 | C25H30N4O5
